US06297375B1
b) (RS)-6-(4-Methyl-piperazin-1-yl)-4-o-tolyl-4,5-dihydro-pyridine-3-carboxylic acid methylamide
A solution of 3.0 g (17.6 mmol) 6-chloro-N-methyl-nicotinamide in 42.0 ml THF was treated at 4° C. dropwise over 15 min. with 43.8 ml (43.8 mmol) o-tolylmagnesiumchloride-solution (IM in THF). The reaction mixture was stirred for 2 h at r.t., cooled to 0° C. and treated dropwise with 50 ml 5% aqueous NH4Cl. The aqueous phase was separated and extracted twice with toluene and the organic phases were washed twice with 5% aqueous NH4Cl. The combined organic phases were dried over Na2SO4 and the solvent was removed under reduced pressure to yield 5.4 g (94.6%) product as yellowish crystals, m.p. 137.0-138.0° C.

reactant | 6-chloro-N-methyl-nicotinamide | 17.6 mmol, 3.0 g | ClC1=NC=C(C(=O)NC)C=C1 | C7H7ClN2O
reactant | o-tolylmagnesiumchloride | 43.8 mmol, 43.8 ml | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
reactant | THF | 42.0 ml | C1CCOC1 | C4H8O
product | (RS)-6-(4-Methyl-piperazin-1-yl)-4-o-tolyl-4,5-dihydro-pyridine-3-carboxylic acid methylamide | 5.4 g, 94.6% | CNC(=O)C1=CN=C(CC1C1=C(C=CC=C1)C)N1CCN(CC1)C | C19H26N4O
